US07528250B2
A solution of 7-phenylsulfanyl-chroman-4-one (2.21 g, 8.62 mmol) in 20 mL o MeOH and 2 mL water was stirred at room temperature. OXONE™ (potassium peroxymonosulfate, 6.35 g, 10.35 mmol) was added, and the reaction mixture was stirred for 3 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was dried over MgSO4, and solvent was evaporated under reduced pressure. The resulting residue was eluted through silica gel with 35% EtOAc in hexanes. Removal of solvent under reduced pressure afforded 1.56 g (5.41 mmol, 63%) of 7-benzenesulfonyl-chroman-4-one. MS: 289 (M+H)+.

reactant | 7-phenylsulfanyl-chroman-4-one | 8.62 mmol, 2.21 g | C1(=CC=CC=C1)SC1=CC=C2C(CCOC2=C1)=O | C15H12O2S
reactant | MeOH | CO | CH4O
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | potassium peroxymonosulfate | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 2 mL | O | H2O
product | 7-benzenesulfonyl-chroman-4-one | 5.41 mmol, 1.56 g, 63% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)=O | C15H12O4S
